US04595535
To a solution of 5.41 g of thiophosgene in 30 ml of methylene chloride is added dropwise at 0° a solution of 7.5 g of 5-methyl-3-(o-aminobenzyl)-1,2,4-triazole and 8.07 g of triethylamine in 285 ml of methylene chloride over a period of 45 minutes. The mixture is stirred at room temperature overnight, washed first with 10% aqueous potassium bicarbonate, then with water, dried over magnesium sulfate, decolorized with charcoal and evaporated to dryness to give 5-methyl-3-(o-isothiocyanatobenzyl)-1,2,4-triazole; IR 2080 cm-1.

reactant | thiophosgene | 5.41 g | C(=S)(Cl)Cl | CCl2S
reactant | 5-methyl-3-(o-aminobenzyl)-1,2,4-triazole | 7.5 g | CC1=NC(=NN1)CC1=C(C=CC=C1)N | C10H12N4
reactant | triethylamine | 8.07 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 285 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-3-(o-isothiocyanatobenzyl)-1,2,4-triazole | CC1=NC(=NN1)CC1=C(C=CC=C1)N=C=S | C11H10N4S
